US08957214B2
3-[1-((6-chloropyridin-3-yl)methyl)imidazolidin-2-ylidene]-1,1,1-trifluoropropan-2-one (Patent Document 5, Example 4)
A solution of 77 mg (0.42 mmol) of the N-((6-chloropyridin-3-yl)methyl)ethane-1,2-diamine obtained by the foregoing method in 8 mL of anhydrous acetonitrile was added to 60 mg (0.28 mmol) of 1,1,1-trifluoro-4,4-bis(methylthio)-3-buten-2-one obtained by the foregoing method, and the mixture was refluxed under heating for 40 minutes. Following reaction completion, the reaction mixture was returned to room temperature and concentrated under reduced pressure, after which ethyl acetate and water were added, and liquid-liquid extraction was carried out. The organic phase was washed with anhydrous magnesium sulfate, then concentrated under reduced pressure, and the concentrate was purified by silica gel column chromatography (hexane/ethyl acetate=3:1), giving 59 mg of the target compound (yield, 69%).

reactant | N-((6-chloropyridin-3-yl)methyl)ethane-1,2-diamine | 0.42 mmol, 77 mg | ClC1=CC=C(C=N1)CNCCN | C8H12ClN3
reactant | 1,1,1-trifluoro-4,4-bis(methylthio)-3-buten-2-one | 0.28 mmol, 60 mg | FC(C(C=C(SC)SC)=O)(F)F | C6H7F3OS2
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 3-[1-((6-chloropyridin-3-yl)methyl)imidazolidin-2-ylidene]-1,1,1-trifluoropropan-2-one | 59 mg, 69% | ClC1=CC=C(C=N1)CN1C(NCC1)=CC(C(F)(F)F)=O | C12H11ClF3N3O
